US06900215B2
2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol was coupled with 3-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine as described in Example 1 to give 2-[3-(4-fluoro-3-(pyridin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol as a white solid. Bis-hydrochloride salt (from ethyl acetate/ethanol): δH (400 MHz, DMSO) 1.56 (6H, s), 7.73 (1H, dd, J 11 and 9), 7.81-7.90 (3H, m), 8.09 (1H, dd, J 7 and 2), 8.42 (1H, dd, J 7 and 1), 8.55 (1H, s), 8.81 (1H, dd, J 5 and 1), 9.06 (1H, s), 9.39 (1H, d, J 7).

reactant | 2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
reactant | 3-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC=CC1 | C17H19BFNO2
product | 2-[3-(4-fluoro-3-(pyridin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(C)(C)O)C=2C=NC=CC2 | C20H17FN4O
